US04751233
2.0 g (66.67 mmol) of 80% sodium hydride in oil were added to 9.97 g (59.1 mmol) of 2-mercaptobenzothiazole in 250 ml of dry tetrahydrofuran under nitrogen. The suspension was stirred at ambient temperature and, when effervescence had ceased 10 g (59.65 mmol) of 8-chloro-5,6,7,8-tetrahydroquinoline were added via a syringe. The reaction mixture was stirred at ambient temperature for 48 hours and the solvent was removed under reduced pressure. The residue was partitioned between water and dichloromethane and the organic phase was washed with water, dried over MgSO4 and concentrated to dryness under reduced pressure. The resulting oil was purified by flash column chromatography over silica (75 g)with elution with a mixture of dichloromethane and diethyl ether (1:0 gradually changing to 0:1). The pale yellow oil residue was crystallized from a mixture of dichloromethane-40°-60° petroleum ether to obtain 10.9 g (61%) of 8-(2-benzothiazolylthio)-5,6,7,8-tetrahydroquinoline in form of white crystals melting at 72° -3° C.

reactant | sodium hydride | 66.67 mmol, 2.0 g | [H-].[Na+]
reactant | 2-mercaptobenzothiazole | 59.1 mmol, 9.97 g | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | 8-chloro-5,6,7,8-tetrahydroquinoline | 59.65 mmol, 10 g | ClC1CCCC=2C=CC=NC12 | C9H10ClN
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 8-(2-benzothiazolylthio)-5,6,7,8-tetrahydroquinoline | 10.9 g, 61% | S1C(=NC2=C1C=CC=C2)SC2CCCC=1C=CC=NC21 | C16H14N2S2
